US08445490B2
To a solution of 4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (100 mg, 0.21 mmol) in DCM (3 mL) was added glycine ethyl ester HCl (44 mg, 0.32 mmol), HATU (120 mg, 0.32 mol) and iPr2NEt (0.11 mL, 0.63 mmol). The mixture was stirred at r.t. for 16 hours before all the solvents were removed under vacuum. All solvents were removed nuder vacuum and the residue was purified by silica gel column (EtOAC/Hexanes=40% to 60%) to give ethyl 2-(4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamido)acetate (100 mg, 81%) as a white solid.

reactant | 4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 0.21 mmol, 100 mg | C(C=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C22H20F3N5O4
reactant | glycine ethyl ester HCl | 0.32 mmol, 44 mg | Cl.C(C)OC(CN)=O
reactant | HATU | 0.32 mol, 120 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.63 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamido)acetate | 100 mg, 81% | C(C=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)NCC(=O)OCC)C=C2)C=C1 | C26H27F3N6O5
